US07741327B2
A mixture of 2-[4-(2-chloro-phenoxy)-2-oxo-2,5-dihydro-pyrrol-1-yl]-4,4,4-trifluoro-butyric acid methyl ester (212 mg, 0.58 mmol) in a 1:1 solution of tetrahydrofuran:water (8 mL) was treated with lithium hydroxide monohydrate (55 mg, 1.16 mmol) and stirred for 1.5 h at 25° C. After such time, the mixture was concentrated in vacuo to remove the tetrahydrofuran and then diluted with water (10 mL) and the pH adjusted to pH=4 with 1N aqueous hydrochloric acid and extracted with ethyl acetate. The organic layers were then dried over sodium sulfate and concentrated in vacuo to afford 2-[4-(2-chloro-phenoxy)-2-oxo-2,5-dihydro-pyrrol-1-yl]-4,4,4-trifluoro-butyric acid (149 mg, 73%) as a white solid: HR-ES-MS m/z calculated for C14H11NO4ClF3 [M+Na]+ 372.0221, observed 372.0224.

reactant | 2-[4-(2-chloro-phenoxy)-2-oxo-2,5-dihydro-pyrrol-1-yl]-4,4,4-trifluoro-butyric acid methyl ester | 0.58 mmol, 212 mg | COC(C(CC(F)(F)F)N1C(C=C(C1)OC1=C(C=CC=C1)Cl)=O)=O | C15H13ClF3NO4
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
reactant | lithium hydroxide monohydrate | 1.16 mmol, 55 mg | O.[OH-].[Li+]
solvent | water | 8 mL | O | H2O
product | 2-[4-(2-chloro-phenoxy)-2-oxo-2,5-dihydro-pyrrol-1-yl]-4,4,4-trifluoro-butyric acid | 149 mg, 73% | ClC1=C(OC2=CC(N(C2)C(C(=O)O)CC(F)(F)F)=O)C=CC=C1 | C14H11ClF3NO4
